US08048899B2
Synthesis of 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic Acid (Example 23)
Jones reagent (1.28 mL, 10.24 mmol) is added dropwise to a solution of N-[3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide (560 mg, 1.50 mmol) in a mixture of acetone (4 mL) and dichloromethane (4 mL) at 0° C. The reaction mixture is stirred at 0° C. for 3 minutes then room temperature for 2.5 h. After this time, the reaction mixture is diluted with acetone and filtered through celite and the celite is washed with acetone. The filtrate is concentrated under reduced pressure. The residue is dispersed in water and filtered to yield the title compound. Yield: 64%; m/z 389 [M+H].

reactant | Jones reagent | 10.24 mmol, 1.28 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | N-[3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 1.50 mmol, 560 mg | OCC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H26N2O6S
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic Acid | Yield: 64% | CC(C(=O)O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H24N2O7S
